US07375134B2
To a solution of (2S)-2-{(R)-[(4-bromophenyl)-(4-fluorophenyl)-methyl]-amino}-4-methylpentan-1-ol (3.28 g, 8.65 mmol) in acetonitrile (50 mL) containing water (0.375 mL) at 0-5° C. was added, over 20 minutes, a solution of periodic acid and chromium [VI] oxide in acetonitrile (50 mL: prepared by dissolving 11.4 grams of H5IO6 and 23 mg of CrO3 in 100 mL of CH3CN and stirring for 2 hours at room temperature according to the procedure described in Tetrahedron Letters, 1998, vol. 39, p. 5323-5326). The reaction mixture was stirred overnight while warming to room temperature. Disodium phosphate (1.8 g/100 mL water) was added. The reaction mixture was extracted with toluene (150 mL), washed with 1:1 brine/water (50 mL), freshly prepared sodium bisulfite solution (2 g/50 mL water), brine (50 mL), dried over MgSO4, filtered, concentrated in vacuo, and purified on a short plug of silica gel (30% ethyl acetateihexane elution to remove non-polar impurities, then 50% ethyl acetate/dichloromethane elution) to give (2S)-2-{(R)-[(4-bromophenyl)-(4-fluorophenyl)-methyl]-amino}-4-methylpentanoic acid.

reactant | (2S)-2-{(R)-[(4-bromophenyl)-(4-fluorophenyl)-methyl]-amino}-4-methylpentan-1-ol | 8.65 mmol, 3.28 g | BrC1=CC=C(C=C1)[C@@H](C1=CC=C(C=C1)F)N[C@H](CO)CC(C)C | C19H23BrFNO
reactant | water | 0.375 mL | O | H2O
reactant | periodic acid | I(=O)(=O)(=O)O | HIO4
reactant | Disodium phosphate | 100 mL, 1.8 g | P(=O)([O-])([O-])O.[Na+].[Na+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | CH3CN | 100 mL | CC#N | C2H3N
catalyst | chromium | [Cr] | Cr
product | (2S)-2-{(R)-[(4-bromophenyl)-(4-fluorophenyl)-methyl]-amino}-4-methylpentanoic acid | BrC1=CC=C(C=C1)[C@@H](C1=CC=C(C=C1)F)N[C@H](C(=O)O)CC(C)C | C19H21BrFNO2
